2124-03-28 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient intubated prior to transfer to the ICU
   - Axillary A-line placed in right arm
   - Bronchoscopy and BAL performed, bronch with note of particulate
   matter in airways consistent with aspiration.
   - Patient with hypotension and systolics of mid-80s at 0100 and was
   bolused with 1 L NS.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-27**] 06:00 PM
   Meropenem - [**2124-3-28**] 03:59 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2124-3-27**] 09:15 PM
   Midazolam (Versed) - [**2124-3-27**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-28**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 68 (68 - 96) bpm
   BP: 82/31(48) {64/31(47) - 175/76(116)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,860 mL
                                                                  2,169 mL
   PO:
   TF:
   IVF:
                                                                  2,860 mL
                                                                  2,169 mL
   Blood products:
   Total out:
                                                                    442 mL
                                                                    220 mL
   Urine:
                                                                    442 mL
                                                                    220 mL
   Balance:
                                                                  2,418 mL
                                                                  1,949 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 119 (119 - 119) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/36/95.[**Numeric Identifier **]/19/-3
   Ve: 8.9 L/min
   PaO2 / FiO2: 190
   Physical Examination
   GEN: Intubated and mildly sedated
   HEENT: PERRL, not able to comply with eye movement exam, oral mucosa
   dry
   NECK: Supple, no LAD
   PULM:  Intubated and on mechanical ventilation, Coarse breath sounds
   anteriorly
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD:  BS+, soft, NT, ND
   EXT: Right hallux valgus, no lower extremity edema
   NEURO: Patient mildly sedated, moves right side of body to verbal
   command; however, does not grasp with left hand, move left UE or left
   LE to vocal command
   Labs / Radiology
   252 K/uL
   10.8 g/dL
   91 mg/dL
   0.5 mg/dL
   19 mEq/L
   3.4 mEq/L
   17 mg/dL
   100 mEq/L
   129 mEq/L
   30.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2124-3-27**]  04:26 PM
                             [**2124-3-27**]  05:00 PM
                             [**2124-3-28**]  02:53 AM
                             [**2124-3-28**]  03:21 AM
   WBC
   6.8
   9.4
   Hct
   34.6
   30.0
   Plt
   262
   252
   Cr
   0.6
   0.5
   TropT
   0.03
   0.04
   TCO2
   24
   22
   Glucose
   115
   91
   Other labs: PT / PTT / INR:14.9/81.6/1.3, CK / CKMB /
   Troponin-T:295/7/0.04, ALT / AST:18/35, Alk Phos / T Bili:43/0.5,
   Differential-Neuts:92.4 %, Lymph:4.5 %, Mono:2.7 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:245 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   MICRO:
   [**2124-3-27**] Blood Culture x 3: NGTD
   [**2124-3-27**] BRONCHOALVEOLAR LAVAGE GRAM STAIN:  2+ PMNs.  2+ GPC IN PAIRS
   AND CLUSTERS.
   [**2124-3-27**] Urine Culture: NGTD
   [**2124-3-28**] Blood Culture: NGTD
   Assessment and Plan
   A/P: 73F with breast and lung cancers in remission, CAD, HTN who is
   admitted after second mechanical fall in two weeks; now transfer to
   MICU after code blue for altered mental status/respiratory distress
   requiring intubation. Report from OSH MRI of evidence of acute stroke.
   # Respiratory failure:
   Patient with likely mixed hypoxemic and hypercapnic respiratory failure
   in the setting of pulmonary infection. Given in-hospital aspiration
   event, is likely to be considered a HAP. Is s/p intubation with
   acceptable oxygen saturations overnight. Had BAL yesterday with gram
   stain showing GPCs in pairs and clusters. Likely not ACS given 5 sets
   of negative cardiac enzymes since presentation to the hospital.
   - Switch from AC to PSV for preparation for ventilator liberation.
   - Continue Vancomycin and Meropenem until further culture data
   available
   - Follow-up BAL culture
   - Follow-up blood cultures
   - Follow-up BNP
   # Hypotension:
   Was evident after intubation sedation. Repeat episode of hypotension
   following midaz administration during bronch. Patient also likely to be
   hypovolemic due to reported poor PO intake prior to presentation to the
   hospital. Now with A-line monitoring of blood pressure. Chance that
   this is cardiogenic hypotension.
   - Continue to hold BP meds.
   - Treat infection
   - Check TTE
   # Altered mental status/lethargy:
   Known acute stroke at OSH; also was hypercarbic at time of code which
   could be cause or contributor.  Metabolic abnls include hypothroidism
   and hyponatremia.
   - Neuro stroke is following along and appreciate their recs
   - Obtain OSH MRI images.
   - Repeat MRI given evolving nature of neuro deficits
   - Correction of metabolic/electrolyte abnls.
   - infectious workup - urine, sputum, bloods.
   - Carotid dopplers
   - TTE
   - Continue aspirin and atorvastatin
   # Thoracic spine compression fractures:
   Question of acuity of the fracture.
   - Appreciate Ortho Spine recs
   - Hold inhaled calcitonin when able and lidoderm patch.
   # Hyponatremia:
   Urine osm and Na are consistent with SIADH, possibly mediated by pain
   afferents in the setting of vertebral compression fractures vs.
   pulmonary process. Of note, patient also has a remote history of small
   cell lung CA, which can be associated with SIADH, though has been in
   remission for ~ 8  years.  TSH is slightly elevated with normal free
   T4, making hypothyroidism unlikely contributor. Also consider that in
   setting of poor PO intake recently patient has had excess of free water
   intake related to solute intake.
   - Trend serum sodium
   - Free water restrict with tube feeds
   - Continue home dose of levothyroxine
   ICU Care
   Nutrition: Plan to place NG tube today and initiate tube feeds
   Glycemic Control:  None needed currently
   Lines:
   20 Gauge - [**2124-3-27**] 01:30 PM
   22 Gauge - [**2124-3-27**] 01:30 PM
   Arterial Line - [**2124-3-27**] 04:25 PM
   Prophylaxis:
   DVT: On pneumoboots, subcutaneous heparin on hold for elevated PTT
   Stress ulcer: PPI
   VAP:  Vent bundle
   Communication:  With husband, daughter, and son
   [**Name (NI) 129**] status: Full code
   Disposition: In ICU while intubated

2124-03-29 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MRI head
   - NGT placed, tube feeds started
   - Received 500cc fluid boluses for low UOP, trying to avoid fluid
   overload
   - Plan to extubate soon, likely [**3-29**]
   - SBT attempted this morning; however, aborted due to increased RR and
   increased BP
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-27**] 06:00 PM
   Meropenem - [**2124-3-29**] 04:28 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2124-3-28**] 11:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient denies pain or uncomfortable respirations
   Flowsheet Data as of  [**2124-3-29**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 78 (63 - 101) bpm
   BP: 92/43(61) {83/41(60) - 180/93(130)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  4,208 mL
                                                                  1,175 mL
   PO:
             TF:
                                                                     91 mL
                                                                      3 mL
   IVF:
                                                                  4,088 mL
                                                                  1,172 mL
   Blood products:
   Total out:
                                                                    572 mL
                                                                    185 mL
   Urine:
                                                                    572 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,636 mL
                                                                    990 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 416 (308 - 416) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 96%
   ABG: 7.37/35/91/20/-3
   Ve: 7.6 L/min
   PaO2 / FiO2: 228
   Physical Examination
   GEN: Intubated and mildly sedated
   HEENT: PERRL, not able to comply with eye movement exam, oral mucosa
   dry
   NECK: Supple, no LAD
   PULM:  Intubated and on mechanical ventilation, Coarse breath sounds
   anteriorly
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD:  BS+, soft, NT, ND
   EXT: Right hallux valgus, no lower extremity edema
   NEURO: Patient mildly sedated, moves right side of body to verbal
   command; however, does not grasp with left hand, move left hand or left
   LE to vocal command. Left shoulder flicker with attempted left hand
   movement.
   Labs / Radiology
   230 K/uL
   9.8 g/dL
   106 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.8 mEq/L
   15 mg/dL
   105 mEq/L
   133 mEq/L
   28.5 %
   7.7 K/uL
        [image002.jpg]
                             [**2124-3-27**]  04:26 PM
                             [**2124-3-27**]  05:00 PM
                             [**2124-3-28**]  02:53 AM
                             [**2124-3-28**]  03:21 AM
                             [**2124-3-28**]  02:45 PM
                             [**2124-3-28**]  03:33 PM
                             [**2124-3-29**]  03:00 AM
                             [**2124-3-29**]  03:35 AM
   WBC
   6.8
   9.4
   7.7
   Hct
   34.6
   30.0
   28.5
   Plt
   [**Telephone/Fax (3) 5271**]
   Cr
   0.6
   0.5
   0.5
   0.5
   TropT
   0.03
   0.04
   TCO2
   24
   22
   19
   21
   Glucose
   115
   91
   103
   106
   Other labs: PT / PTT / INR:12.9/33.1/1.1, CK / CKMB /
   Troponin-T:295/7/0.04, ALT / AST:18/35, Alk Phos / T Bili:43/0.5,
   Differential-Neuts:92.4 %, Lymph:4.5 %, Mono:2.7 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:245 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   73F with breast and lung cancers in remission, CAD, HTN who is admitted
   after second mechanical fall in two weeks; now transfer to MICU after
   code blue for altered mental status/respiratory distress requiring
   intubation. Report from OSH MRI of evidence of acute stroke.
   # Respiratory failure:
   Patient with likely mixed hypoxemic and hypercapnic respiratory failure
   in the setting of pulmonary infection. Given in-hospital aspiration
   event, is likely to be considered a HAP. Is s/p intubation with
   acceptable oxygen saturations overnight. Had BAL yesterday with gram
   stain showing GPCs in pairs and clusters. Likely not ACS given 5 sets
   of negative cardiac enzymes since presentation to the hospital. BNP
   from yesterday was 3110, indicating some component of volume overload.
   Her fluid balance yesterday was 3.6 L positive. SBT did not go well
   this AM.
   - Maintain on PSV for now with lowest tolerated settings
   - Continue Vancomycin and Meropenem for now and discontinue if negative
   BAL culture for 48 hours
   - Follow-up BAL culture
   - Follow-up blood cultures
   - Diurese today
   # Altered mental status/lethargy/left-sided hemiparesis:
   Known acute stroke at OSH; also was hypercarbic at time of code which
   could be cause or contributor. MRI yesterday revealed question of
Scattered tiny foci of possible slow diffusion in the right middle
   cerebral artery distribution
, also question of
stenosis of the distal
   right M1 segment of the middle cerebral artery, or perhaps an embolus
   in this location.
 Radiology and neurology agree that CTA head will
   help to further clarify etiology of stroke.
   - Head CTA today to further characterize stroke
   - Heparin anticoagulation pending CTA results and neurology input
   - Neuro stroke is following along and ongoing input
   - Comparison of OSH MRI with MRI from here that was obtained yesterday
   - Continue aspirin and atorvastatin
   # Hypotension:
   Was evident after intubation sedation. Repeat episode of hypotension
   following midaz administration during bronch. Patient also likely to be
   hypovolemic due to reported poor PO intake prior to presentation to the
   hospital. Now with A-line monitoring of blood pressure. Chance that
   this is cardiogenic hypotension. ECHO yesterday with LVEF = 45-50%,
   this combined with BNP of ~3000 indicates that some component of
   hypotension may be cardiogenic.
   - Continue to hold BP meds
   - Diruese today as tolerated by blood pressure
   # Thoracic spine compression fractures:
   MRI T-spine from yesterday reports that these are acute compression
   fractures with retropulsion of fragment.
   - Appreciate Ortho Spine recs
   # Hyponatremia:
   Hyponatremia is normalized at this time with AM sodium of 133. TSH
   elevated at 11 with normal free T4.
   - Trend serum sodium
   - Free water restrict with tube feeds
   - Continue home dose of levothyroxine
   ICU Care
   Nutrition: Nutren 2.0 Full strength; Additives: Beneprotein, 10 gm/day
   Goal rate: 25 ml/hr
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-3-27**] 01:30 PM
   22 Gauge - [**2124-3-27**] 01:30 PM
   Arterial Line - [**2124-3-27**] 04:25 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  Vent bundle
   Communication:  With husband, sister, and son
   [**Name (NI) 129**] status: FULL CODE
   Disposition: To remain in ICU

2124-03-30 07:13:00 Physician Resident Progress Note
Chief Complaint: Left-sided weakness, aspiration
   24 Hour Events:
   - MRI/MRA with possible stenosis of distal right M1 seg of MCA, or
   perhaps an embolus in this location
   - CTA Head with occluded M1 segment of R MCA, likely new stroke
   - Carotid U/S with 40-59% stenosis of R ICA, occlusion of L CCA with
   reversal of flow in the L ECA which supplies the L ICA, no change.
   - MRI thoracic spine with acute fx T2 and T3 with retropulsed frag at
   T3 compressing spinal cord with associated edema
   - Spine recs not candidate for vertebroplasty/typhoplasty due to
   retropulsed frag, no surgical recs at this time due to risk of [**Doctor First Name **]
   - Started on heparing gtt without bolus per stroke team
   - [**3-27**] BAL cx with oral flora
   - Diuresis overnight
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-3-27**] 06:00 PM
   Meropenem - [**2124-3-30**] 04:24 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-30**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.8
   HR: 81 (70 - 106) bpm
   BP: 136/56(85) {87/44(60) - 171/97(137)} mmHg
   RR: 18 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,044 mL
                                                                    338 mL
   PO:
   TF:
                                                                    278 mL
   IVF:
                                                                  1,666 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                  3,010 mL
                                                                    325 mL
   Urine:
                                                                  3,010 mL
                                                                    325 mL
   Balance:
                                                                   -966 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 348 (348 - 500) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 179
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.50/33/86.[**Numeric Identifier **]/26/2
   Ve: 9.6 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN: Intubated and mildly sedated
   HEENT: PERRL, not able to comply with eye movement exam, oral mucosa
   dry
   NECK: Supple, no LAD
   PULM:  Intubated and on mechanical ventilation, Coarse breath sounds
   anteriorly
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD:  BS+, soft, NT, ND
   EXT: Right hallux valgus, no lower extremity edema
   NEURO: Patient mildly sedated, moves right side of body to verbal
   command; however, does not grasp with left hand, move left hand or left
   LE to vocal command. Left shoulder flicker with attempted left hand
   movement.
   Labs / Radiology
   213 K/uL
   10.0 g/dL
   153 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.1 mEq/L
   11 mg/dL
   101 mEq/L
   135 mEq/L
   28.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2124-3-28**]  02:53 AM
                             [**2124-3-28**]  03:21 AM
                             [**2124-3-28**]  02:45 PM
                             [**2124-3-28**]  03:33 PM
                             [**2124-3-29**]  03:00 AM
                             [**2124-3-29**]  03:35 AM
                             [**2124-3-29**]  07:33 PM
                             [**2124-3-29**]  09:33 PM
                             [**2124-3-30**]  03:00 AM
                             [**2124-3-30**]  03:22 AM
   WBC
   9.4
   7.7
   7.6
   Hct
   30.0
   28.5
   28.4
   Plt
   [**Telephone/Fax (3) 5302**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TropT
   0.04
   TCO2
   22
   19
   21
   26
   27
   Glucose
   91
   103
   106
   138
   153
   Other labs: PT / PTT / INR:12.3/56.4/1.0, CK / CKMB /
   Troponin-T:295/7/0.04, ALT / AST:18/35, Alk Phos / T Bili:43/0.5,
   Differential-Neuts:92.4 %, Lymph:4.5 %, Mono:2.7 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:245 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   73F with breast and lung cancers in remission, CAD, HTN who is admitted
   after second mechanical fall in two weeks; now transfer to MICU after
   code blue for altered mental status/respiratory distress requiring
   intubation. Report from OSH MRI of evidence of acute stroke.
   # Respiratory failure:
   Patient with likely mixed hypoxemic and hypercapnic respiratory failure
   in the setting of pulmonary infection. Given in-hospital aspiration
   event, is likely to be considered a HAP. Is s/p intubation with
   acceptable oxygen saturations overnight. Had BAL yesterday with gram
   stain showing GPCs in pairs and clusters. Likely not ACS given 5 sets
   of negative cardiac enzymes since presentation to the hospital. BNP
   from yesterday was 3110, indicating some component of volume overload.
   Her fluid balance yesterday was 3.6 L positive. SBT did not go well
   this AM.
   - Maintain on PSV for now with lowest tolerated settings
   - Continue Vancomycin and Meropenem for now and discontinue if negative
   BAL culture for 48 hours
   - Follow-up BAL culture
   - Follow-up blood cultures
   - Diurese today
   # Altered mental status/lethargy/left-sided hemiparesis:
   Known acute stroke at OSH; also was hypercarbic at time of code which
   could be cause or contributor. MRI yesterday revealed question of
Scattered tiny foci of possible slow diffusion in the right middle
   cerebral artery distribution
, also question of
stenosis of the distal
   right M1 segment of the middle cerebral artery, or perhaps an embolus
   in this location.
 Radiology and neurology agree that CTA head will
   help to further clarify etiology of stroke.
   - Head CTA today to further characterize stroke
   - Heparin anticoagulation pending CTA results and neurology input
   - Neuro stroke is following along and ongoing input
   - Comparison of OSH MRI with MRI from here that was obtained yesterday
   - Continue aspirin and atorvastatin
   # Hypotension:
   Was evident after intubation sedation. Repeat episode of hypotension
   following midaz administration during bronch. Patient also likely to be
   hypovolemic due to reported poor PO intake prior to presentation to the
   hospital. Now with A-line monitoring of blood pressure. Chance that
   this is cardiogenic hypotension. ECHO yesterday with LVEF = 45-50%,
   this combined with BNP of ~3000 indicates that some component of
   hypotension may be cardiogenic.
   - Continue to hold BP meds
   - Diruese today as tolerated by blood pressure
   # Thoracic spine compression fractures:
   MRI T-spine from yesterday reports that these are acute compression
   fractures with retropulsion of fragment.
   - Appreciate Ortho Spine recs
   # Hyponatremia:
   Hyponatremia is normalized at this time with AM sodium of 133. TSH
   elevated at 11 with normal free T4.
   - Trend serum sodium
   - Free water restrict with tube feeds
   - Continue home dose of levothyroxine
   ICU Care
   Nutrition: Nutren 2.0 Full strength; Additives: Beneprotein, 10 gm/day
   Goal rate: 25 ml/hr
   Glycemic Control:  None needed at this time
   Lines:
   20 Gauge - [**2124-3-27**] 01:30 PM
   22 Gauge - [**2124-3-27**] 01:30 PM
   Arterial Line - [**2124-3-27**] 04:25 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  Vent bundle
   Communication:  With husband, sister, and son
   [**Name (NI) 129**] status: FULL CODE
   Disposition: To remain in ICU

2124-03-31 07:31:00 Physician Resident Progress Note
Chief Complaint: Acute stroke, respiratory failure
   24 Hour Events:
   - Furosemide drip started
   - Neuro rec ongoing heparin anticoagulation, SBPs 120 - 170, repeat
   non-con head CT in AM
   - Patient with SBP intermittently to 200s, was restarted on home
   amlodipine after check with neuro
   - A-line positional throughout night
   - Two peripheral IVs lost and IV access team unsuccessful with new
   attempt, PICC request was ordered
   - Vancomycin and Meropenem discontinued
   Patient alert and denies pain at this time.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2124-3-30**] 04:24 AM
   Vancomycin - [**2124-3-30**] 08:09 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-3-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-3-31**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 87 (80 - 101) bpm
   BP: 148/67(98) {99/46(66) - 208/136(148)} mmHg
   RR: 21 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53.9 kg (admission): 50 kg
   Height: 60 Inch
             Total In:
                                                                  1,333 mL
                                                                     57 mL
   PO:
   TF:
                                                                    117 mL
                                                                      0 mL
   IVF:
                                                                    727 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  3,220 mL
                                                                    940 mL
   Urine:
                                                                  3,220 mL
                                                                    940 mL
   Balance:
                                                                 -1,887 mL
                                                                   -883 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 400 (0 - 417) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.53/43/94.[**Numeric Identifier 433**]/31/11
   Ve: 7.1 L/min
   PaO2 / FiO2: 235
   Physical Examination
   GEN: Intubated and minimally sedated
   HEENT: PERRL, Does not look fully to the left, oral mucosa dry
   NECK: Supple, no LAD
   PULM:  Intubated and on mechanical ventilation, Coarse breath sounds
   anteriorly, anterior chest wall is tender to palpation
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD:  BS+, soft, NT, ND
   EXT: Right hallux valgus, no lower extremity edema
   NEURO: Patient alert and interactive, moves right side of body to
   verbal command. Left shoulder and forearm flicker with attempted left
   hand movement. Left foot with new movement this AM.
   PSYCH: Unable to assess at this time
   Labs / Radiology
   216 K/uL
   10.0 g/dL
   131 mg/dL
   0.4 mg/dL
   31 mEq/L
   3.7 mEq/L
   7 mg/dL
   90 mEq/L
   129 mEq/L
   29.4 %
   7.5 K/uL
        [image002.jpg]
                             [**2124-3-29**]  03:00 AM
                             [**2124-3-29**]  03:35 AM
                             [**2124-3-29**]  07:33 PM
                             [**2124-3-29**]  09:33 PM
                             [**2124-3-30**]  03:00 AM
                             [**2124-3-30**]  03:22 AM
                             [**2124-3-30**]  04:08 PM
                             [**2124-3-30**]  05:39 PM
                             [**2124-3-31**]  03:22 AM
                             [**2124-3-31**]  06:02 AM
   WBC
   7.7
   7.6
   7.5
   Hct
   28.5
   28.4
   29.4
   Plt
   230
   213
   216
   Cr
   0.5
   0.5
   0.4
   0.4
   0.4
   TCO2
   21
   26
   27
   33
   37
   Glucose
   106
   138
   153
   118
   131
   Other labs: PT / PTT / INR:13.9/137.0/1.2, CK / CKMB /
   Troponin-T:295/7/0.04, ALT / AST:18/35, Alk Phos / T Bili:43/0.5,
   Differential-Neuts:92.4 %, Lymph:4.5 %, Mono:2.7 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:3.1 g/dL, LDH:245 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   73F with breast and lung cancers in remission, CAD, HTN who is admitted
   after second mechanical fall in two weeks; now transfer to MICU after
   code blue for altered mental status/respiratory distress requiring
   intubation. Report from OSH MRI of evidence of acute stroke.
   # Respiratory failure:
   Patient with likely mixed hypoxemic and hypercapnic respiratory failure
   in the setting of aspiration. BAL culture growing only oropharyngeal at
   this time, consistent with aspiration and less concerning for a
   pneumonia. Vanc and meropenem were discontinued on [**2124-3-30**]. Likely not
   ACS given 5 sets of negative cardiac enzymes since presentation to the
   hospital. BNP was 3110, indicating some component of volume overload.
   Was managed yesterday with a  furosemide drip giving 1.9 L negative
   fluid balance in 24 hours.
   - Maintain on PSV for now with lowest tolerated settings
   - Continue furosemide drip today for diuresis
   - Follow-up blood cultures
   # Altered mental status/lethargy/left-sided hemiparesis:
   MRI from [**2124-3-28**] as well as CTA head corroborates finding of right MCA
   M1 segment stroke and heparin drip was started per neurology recs.
   - Head CT this AM to assess for ICH following initiation of heparin
   - Neuro stroke is following along and ongoing input in appreciated
   - Continue heparin anticoagulation
   - Continue aspirin and atorvastatin
   # Hypertension / Hypotension:
   Hypotension initially was evident after intubation. Repeat episode of
   hypotension following midaz administration during bronch. ECHO with
   LVEF = 45-50%, this combined with BNP of ~3000 indicates that some
   component of hypotension may have be cardiogenic. Now with intermittent
   hypertension off her home BP meds of valsartan and amlodipine. Overall
   has a labile blood pressure. Our target per neuro recs is SBP 120s to
   170s.
   - Continue amlodipine at 5 mg daily
   - Diruese as tolerated by blood pressure
   # Thoracic spine compression fractures:
   MRI T-spine reports that these are acute compression fractures with
   retropulsion of fragment from T3. No indication for surgery at this
   time.
   - Appreciate ongoing ortho spine recs
   # Hyponatremia:
   Hyponatremia is recurrent this AM with sodium of 129. TSH elevated at
   11 with normal free T4.
   - Trend serum sodium
   - Free water restrict with tube feeds
   - Limit free water intake by switching heparin from D5 to NS
   - Continue home dose of levothyroxine
   ICU Care
   Nutrition: Nutren 2.0 Full strength; Additives: Beneprotein, 10 gm/day
   Goal rate: 25 ml/hr (no free water flushes)
   Glycemic Control:  None needed at this time
   Lines:
   20 Gauge - [**2124-3-27**] 01:30 PM
   22 Gauge - [**2124-3-27**] 01:30 PM
   Arterial Line - [**2124-3-27**] 04:25 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:  Vent bundle
   Communication:  With husband, sister, and son
   [**Name (NI) 129**] status: FULL CODE
   Disposition: To remain in ICU
   ------ Protected Section ------
   Addition to Assessment and Plan:
   - Patient will be started on diamox 500 Q8H to help control contraction
   alkalosis induced by diuresis
   - PICC in IR today as patient only has one peripheral IV
   - Will replete with IV KCl once PICC in place
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3127**], MD
   on:[**2124-3-31**] 11:19 ------

2124-04-01 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2124-3-31**] 12:50 PM
   - Transiently hypotensive, Lasix gtt held, amlodipine d/c'ed
   - Vent weaned to PSV 8, PEEP 5 (late afternoon)
   - Diamox started, alkalosis
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2124-3-30**] 04:24 AM
   Vancomycin - [**2124-3-30**] 08:09 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-4-1**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 81 (71 - 97) bpm
   BP: 99/45(65) {76/39(53) - 170/136(139)} mmHg
   RR: 28 (17 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 50 kg
   Height: 60 Inch
             Total In:
                                                                    872 mL
                                                                    214 mL
   PO:
             TF:
                                                                      0 mL
                                                                    100 mL
   IVF:
                                                                    562 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    500 mL
   Urine:
                                                                  2,660 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,788 mL
                                                                   -286 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 281 (281 - 336) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 14 cmH2O
   SpO2: 91%
   ABG: 7.39/45/92.[**Numeric Identifier 641**]/25/1
   Ve: 8 L/min
   PaO2 / FiO2: 232
   Physical Examination
   GEN: Intubated and minimally sedated
   HEENT: PERRL, Does not look fully to the left, oral mucosa dry
   NECK: Supple, no LAD
   PULM:  Intubated and on mechanical ventilation, Coarse breath sounds
   anteriorly, anterior chest wall is tender to palpation
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD:  BS+, soft, NT, ND
   EXT: Right hallux valgus, no lower extremity edema
   NEURO: Patient alert and interactive, moves right side of body to
   verbal command. Left shoulder and forearm flicker with attempted left
   hand movement. Left foot with new movement this AM.
   PSYCH: Unable to assess at this time
   Labs / Radiology
   214 K/uL
   10.5 g/dL
   103 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   8 mg/dL
   93 mEq/L
   127 mEq/L
   30.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2124-3-29**]  07:33 PM
                             [**2124-3-29**]  09:33 PM
                             [**2124-3-30**]  03:00 AM
                             [**2124-3-30**]  03:22 AM
                             [**2124-3-30**]  04:08 PM
                             [**2124-3-30**]  05:39 PM
                             [**2124-3-31**]  03:22 AM
                             [**2124-3-31**]  06:02 AM
                             [**2124-4-1**]  02:33 AM
                             [**2124-4-1**]  05:29 AM
   WBC
   7.6
   7.5
   6.0
   Hct
   28.4
   29.4
   30.3
   Plt
   [**Telephone/Fax (3) 5326**]
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   26
   27
   33
   37
   28
   Glucose
   138
   153
   118
   131
   103
   Other labs: PT / PTT / INR:12.9/54.5/1.1, CK / CKMB /
   Troponin-T:295/7/0.04, ALT / AST:18/35, Alk Phos / T Bili:43/0.5,
   Differential-Neuts:92.4 %, Lymph:4.5 %, Mono:2.7 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:245 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   73F with breast and lung cancers in remission, CAD, HTN who is admitted
   after second mechanical fall in two weeks; now transfer to MICU after
   code blue for altered mental status/respiratory distress requiring
   intubation. Report from OSH MRI of evidence of acute stroke.
   # Respiratory failure:
   Patient with likely mixed hypoxemic and hypercapnic respiratory failure
   in the setting of aspiration. BAL culture growing only oropharyngeal at
   this time, consistent with aspiration and less concerning for a
   pneumonia. Vanc and meropenem were discontinued on [**2124-3-30**]. Likely not
   ACS given 5 sets of negative cardiac enzymes since presentation to the
   hospital. BNP was 3110, indicating some component of volume overload.
   Was managed yesterday with a  furosemide drip giving 1.9 L negative
   fluid balance in 24 hours.  Continued on lasix gtt, had transient
   episode of hypotension for which lasix gtt was turned off but then
   restarted without complications.
   - Tolerated SBT trial at 0/5 for two hours without difficulty.  RSBI
   71.
   - will plan to extubate today
   - post-extubation CXR
   - Follow-up blood cultures
   # Altered mental status/lethargy/left-sided hemiparesis:
   MRI from [**2124-3-28**] as well as CTA head corroborates finding of right MCA
   M1 segment stroke and heparin drip was started per neurology recs.  CT
   head without e/o bleed.
   - Neuro stroke is following along and ongoing input in appreciated
   - Continue heparin anticoagulation for acute stroke.
   - Continue aspirin and atorvastatin
   # Hypertension / Hypotension:
   Hypotension initially was evident after intubation. Repeat episode of
   hypotension following versed administration during bronch. ECHO with
   LVEF = 45-50%, this combined with BNP of ~3000 indicates that some
   component of hypotension may have be cardiogenic. Now with intermittent
   hypertension off her home BP meds of valsartan and amlodipine. Overall
   has a labile blood pressure. Our target per neuro recs is SBP 120s to
   170s.  Has been having transient hypotension after starting lasix gtt
   with development of alkalosis.  Amlodipine d/c
   - will d/c lasix gtt today for BP issues.
   - d/c diamox
   - Diruese as tolerated by blood pressure
   # Thoracic spine compression fractures:
   MRI T-spine reports that these are acute compression fractures with
   retropulsion of fragment from T3. No indication for surgery at this
   time per spine surgery.
   - Appreciate ongoing ortho spine recs
   # Hyponatremia:
   Hyponatremia is recurrent this AM with sodium of 129. TSH elevated at
   11 with normal free T4.
   - Trend serum sodium
   - Free water restrict with tube feeds
   - Limit free water intake by switching heparin from D5 to NS
   - Continue home dose of levothyroxine
   - PM lytes
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2124-4-1**] 12:15 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-3-27**] 04:25 PM
   20 Gauge - [**2124-3-29**] 09:45 PM
   PICC Line - [**2124-3-31**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-04-01 08:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2124-3-31**] 12:50 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2124-3-30**] 04:24 AM
   Vancomycin - [**2124-3-30**] 08:09 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-4-1**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 81 (71 - 91) bpm
   BP: 99/45(65) {76/39(53) - 157/136(139)} mmHg
   RR: 28 (17 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 53 kg (admission): 50 kg
   Height: 60 Inch
             Total In:
                                                                    872 mL
                                                                    256 mL
   PO:
             TF:
                                                                      0 mL
                                                                    123 mL
   IVF:
                                                                    562 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    500 mL
   Urine:
                                                                  2,660 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,788 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 265 (265 - 336) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 5 cmH2O
   SpO2: 91%
   ABG: 7.39/45/92.[**Numeric Identifier 641**]/25/1
   Ve: 8.7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   214 K/uL
   103 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   8 mg/dL
   93 mEq/L
   127 mEq/L
   30.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2124-3-29**]  07:33 PM
                             [**2124-3-29**]  09:33 PM
                             [**2124-3-30**]  03:00 AM
                             [**2124-3-30**]  03:22 AM
                             [**2124-3-30**]  04:08 PM
                             [**2124-3-30**]  05:39 PM
                             [**2124-3-31**]  03:22 AM
                             [**2124-3-31**]  06:02 AM
                             [**2124-4-1**]  02:33 AM
                             [**2124-4-1**]  05:29 AM
   WBC
   7.6
   7.5
   6.0
   Hct
   28.4
   29.4
   30.3
   Plt
   [**Telephone/Fax (3) 5326**]
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   26
   27
   33
   37
   28
   Glucose
   138
   153
   118
   131
   103
   Other labs: PT / PTT / INR:12.9/54.5/1.1, CK / CKMB /
   Troponin-T:295/7/0.04, ALT / AST:18/35, Alk Phos / T Bili:43/0.5,
   Differential-Neuts:92.4 %, Lymph:4.5 %, Mono:2.7 %, Eos:0.2 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:245 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 .H/O ELECTROLYTE & FLUID DISORDER, OTHER
 MALNUTRITION
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 CVA (STROKE, CEREBRAL INFARCTION), OTHER
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, ASPIRATION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2124-4-1**] 12:15 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-3-27**] 04:25 PM
   20 Gauge - [**2124-3-29**] 09:45 PM
   PICC Line - [**2124-3-31**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: